US09029374B2
8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (130 mg, 0.29 mmol) was reacted with piperidin-4-ol (35.3 mg, 0.35 mmol) using a procedure similar to the one described in Example 2.00 to give 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-6-(4-hydroxypiperidine-1-carbonyl)-2-morpholino-4H-chromen-4-one (101 mg, 65.5%) as a white solid. Mass Spectrum: M+H+ 530. NMR Spectrum: (DMSOd6) at 323° K: 1.24 (bs, 2H), 1.62 (d, 3H), 1.63 (bs, 2H), 2.99 (bs, 2H), 3.19 (bs partially hidden by H2O, 2H), 3.49-3.63 (m, 4H), 3.65-3.72 (m, 1H), 3.72-3.78 (m, 4H), 4.62 (d, 1H), 5.04-5.13 (m, 1H), 5.56 (s, 1H), 6.28 (d, 1H), 6.33 (dd, 1H), 6.64 (ddd, 1H), 6.82 (ddd, 1H), 7.57 (d, 1H), 7.77 (d, 1H).

reactant | 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.29 mmol, 130 mg | ClC=1C(=C(C=CC1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O)F | C22H20ClFN2O5
reactant | piperidin-4-ol | 0.35 mmol, 35.3 mg | N1CCC(CC1)O | C5H11NO
product | 8-(1-(3-chloro-2-fluorophenylamino)ethyl)-6-(4-hydroxypiperidine-1-carbonyl)-2-morpholino-4H-chromen-4-one | 101 mg, 65.5% | ClC=1C(=C(C=CC1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N1CCC(CC1)O)F | C27H29ClFN3O5
